US05728835
4-Pivaloylamino-N-{2-[4-(4-fluorobenzoyl)piperidino]ethyl}-N-(2-methoxyphenyl)benzamide
Using 4-amino-N-{2-[4-(4-fluorobenzoyl)piperidino]ethyl}-N-(2-methoxyphenyl)benzamide (200.0 mg, 0.42 mmol) and pivaloyl chloride (0.062 ml, 0.51 mmol), the procedure of Inventive Example 94 was repeated to obtain 214.6 mg (91.2%) of the title compound in a colorless amorphous form.

reactant | 4-amino-N-{2-[4-(4-fluorobenzoyl)piperidino]ethyl}-N-(2-methoxyphenyl)benzamide | 0.42 mmol, 200.0 mg | NC1=CC=C(C(=O)N(C2=C(C=CC=C2)OC)CCN2CCC(CC2)C(C2=CC=C(C=C2)F)=O)C=C1 | C28H30FN3O3
reactant | pivaloyl chloride | 0.51 mmol, 0.062 ml | C(C(C)(C)C)(=O)Cl | C5H9ClO
product | 4-Pivaloylamino-N-{2-[4-(4-fluorobenzoyl)piperidino]ethyl}-N-(2-methoxyphenyl)benzamide | 214.6 mg, 91.2% | C(C(C)(C)C)(=O)NC1=CC=C(C(=O)N(C2=C(C=CC=C2)OC)CCN2CCC(CC2)C(C2=CC=C(C=C2)F)=O)C=C1 | C33H38FN3O4
